US05610195
b) 4-(N-BOC-amino)-butan-2-ol
A solution of 78.13 g (0.358 mol) of di-tert-butyl dicarbonate in 450 ml of methylene chloride is added dropwise to a solution of 29.5 g (0.331 mol) of 4-amino-butan-2-ol [Acta Chem. Scand. 12, 1746 (1958)] in 250 ml of methylene chloride and the mixture is stirred at room temperature for 15 hours. After evaporation of the reaction mixture in vacuo, washing of the residue obtained as an oil with hexane and drying in vacuo at 50° C., the title compound is obtained as an oil, Rf value=0.42 (silica gel/tert-butyl methyl ether).

reactant | di-tert-butyl dicarbonate | 0.358 mol, 78.13 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-amino-butan-2-ol | 0.331 mol, 29.5 g | NCCC(C)O | C4H11NO
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-(N-BOC-amino)-butan-2-ol | C(=O)(OC(C)(C)C)NCCC(C)O | C9H19NO3
